US07427630B2
N-(3-Chloropropyl)-3-({[(3-chloropropyl)amino]carbonyl}amino)-1H-pyrazole-1-carboxamide
To a solution of 3-aminopyrazole (500 mg, 6 mmol), in anh. DMF (10 mL), at r.t., under N2, was added 3-chloropropyl isocyanate (1.2 mL, 2 eq) and the reaction was stirred for 24 hr. The reaction was not complete and more isocyanate (1.2 mL, 2 eq) was added. The reaction mixture was stirred for an additional 48 hr. It was then poured into CH2Cl2/sat.aq. NaCl and the phases were separated. The aqueous layer was extracted with CH2Cl2 (2×20 mL) and the combined organic extracts were dried over anh. Na2SO4. The solids were filtered and the solvent evaporated. The crude product was purified by flash chromatography (Biotage 40, cHex/EtOAc 7:3) to give the title compound as a white solid (620 mg, 32%).

reactant | 3-aminopyrazole | 6 mmol, 500 mg | NC1=NNC=C1 | C3H5N3
reactant | 3-chloropropyl isocyanate | 1.2 mL, 2 eq | ClCCCN=C=O | C4H6ClNO
reactant | isocyanate | 1.2 mL, 2 eq | [N-]=C=O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(3-Chloropropyl)-3-({[(3-chloropropyl)amino]carbonyl}amino)-1H-pyrazole-1-carboxamide | 620 mg, 32% | ClCCCNC(=O)N1N=C(C=C1)NC(=O)NCCCCl | C11H17Cl2N5O2
